US07420097B2
A 1 L round bottomed flask was charged with 1-phenyl-4-penten-1-one (49.1 g, 307 mmol), THF (200 mL), and a stir bar, and cooled in an ice bath. Cyclopentadienyl magnesium chloride (330 mL of approximately 1 M solution in THF, 330 mmol) was added dropwise over 1 hour. The pale red solution was stirred overnight while warming to room temperature. The solution was then refluxed for 4.5 hours, during which time the red color intensified. After being stirred overnight at room temperature again, the solution was acidified by first adding 5.5 g of ammonium chloride in 100 mL of water, and then adding 50 mL of 1 M HCl. The product was extracted with pentane, and the pentane extracts were collected, washed with water, and dried over sodium sulfate. Elution through silica with heptane and concentration under vacuum afforded 38.6 g (55% isolated and purified yield) of the product 6-phenyl-6-(3-butenyl)fulvene as a red oil.

reactant | 1-phenyl-4-penten-1-one | 307 mmol, 49.1 g | C1(=CC=CC=C1)C(CCC=C)=O | C11H12O
reactant | Cyclopentadienyl magnesium chloride | 330 mmol, approximately 1 M, 330 mL | C1(C=CC=C1)[Mg]Cl
reactant | ammonium chloride | 5.5 g | [Cl-].[NH4+]
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-phenyl-6-(3-butenyl)fulvene | C1(=CC=CC=C1)C(=C1C=CC=C1)CCC=C | C16H16
